US07919504B2
To a stirred mixture or isoquinolin-6-ylboronic acid (83 mg, 0.33 mmol) (prepared as described in US Patent Publication No. US 2007/0173506), 2-bromo-5-(methylthio)-1,3,4-thiadiazole (82 mg, 0.39 mmol) (prepared as described in WO 97/30981) and Pd(PPh3)4 (19 mg, 0.016 mmol) was added dimethoxyethane (5.0 mL) and sodium carbonate (0.41 mM, 2.0 M aq, 0.82 mmol). The mixture was heated at 90° C. under a reflux condenser overnight. After cooling, the mixture was filtered through a short path of Celite and washed with EtOAc (3×10 mL). The combined organic layers were evaporated and purified by flash column chromatography (eluting with a gradient of 1:1 EtOAc in hexanes to pure EtOAc) to provide 6-(5-(methylthio)-1,3,4-thiadiazol-2-yl)isoquinoline (80 mg, 95%) as a pale yellow solid. LCMS (M+H) 260.4 calc. for C12H10N3S2 260.0. 1H NMR (400 MHz, CDCl3): δ ppm 9.33 (d, J=1.17 Hz, 1H) 8.62 (s, 1H) 8.31 (s, 1H) 8.23 (d, J=8.80 Hz, 1H) 8.11 (d, J=8.80 Hz, 1H) 7.74-7.83 (m, 1H) 2.88 (s, 3H).

reactant | isoquinolin-6-ylboronic acid | 0.33 mmol, 83 mg | C1=NC=CC2=CC(=CC=C12)B(O)O | C9H8BNO2
reactant | 2-bromo-5-(methylthio)-1,3,4-thiadiazole | 0.39 mmol, 82 mg | BrC=1SC(=NN1)SC | C3H3BrN2S2
reactant | sodium carbonate | 0.82 mmol, 0.41 mM | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.016 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 5.0 mL | C(OC)COC | C4H10O2
product | 6-(5-(methylthio)-1,3,4-thiadiazol-2-yl)isoquinoline | 80 mg, 95% | CSC1=NN=C(S1)C=1C=C2C=CN=CC2=CC1 | C12H9N3S2
